US08633212B2
To a solution of 4-(5-bromo-2-fluorobenzoyl)-4-hydroxycyclohexanone (1.0055 g, 3.19 mmol, 1.0 equiv) in THF (30 mL) was added 95% t-BuOK (0.3440 g, 2.91 mmol, 0.9 equiv) portionwise. The resulting mixture was heated at 100° C. for 1 h. The reaction mixture was then cooled with an ice bath and quenched with H2O, extracted with ethyl acetate, dried over Na2SO4. After the solvents were evaporated, the residue was purified by chromatography on silica gel eluted with hexanes/ethyl acetate to afford 0.3889 g (41%) of 5-bromo-3H-spiro[benzofuran-2,1′-cyclohexane]-3,4′-dione as a white solid. LC-MS tR=1.58 min in 3 min chromatography, m/z 295, 297 (MH+); 1H NMR (400 MHz, CDCl3) δ 7.82-7.81 (m, 1H), 7.76-7.73 (m, 1H), 7.10-7.07 (m, 1H), 2.81-2.72 (m, 2H), 2.60-2.55 (m, 2H), 2.29-2.21 (m, 2H), 2.08-2.03 (m, 2H); 13C NMR (100 MHz, CDCl3) δ 208.25, 200.80, 169.71, 140.99, 127.47, 121.58, 115.55, 114.81, 88.10, 36.68, 31.86.

reactant | 4-(5-bromo-2-fluorobenzoyl)-4-hydroxycyclohexanone | 3.19 mmol, 1.0055 g, 1.0 equiv | BrC=1C=CC(=C(C(=O)C2(CCC(CC2)=O)O)C1)F | C13H12BrFO3
reactant | t-BuOK | 2.91 mmol, 0.3440 g, 0.9 equiv | CC(C)(C)[O-].[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-bromo-3H-spiro[benzofuran-2,1′-cyclohexane]-3,4′-dione | 0.3889 g, 41% | BrC=1C=CC2=C(C(C3(CCC(CC3)=O)O2)=O)C1 | C13H11BrO3
